US07247645B2
1) Synthesis of 2-benzhydryloxyethanol:
8 ml of toluene and 2 drops of concentrated sulfuric acid were added to 621 mg (10.0 mmol) of ethylene glycol, and they were heated to 90° C. 737 mg (4.0 mmol) of benzhydrol was added dropwise to the obtained mixture for the duration of 50 minutes. 30 minutes after, 621 mg (10.0 mmol) of ethylene glycol was added thereto and they were stirred under heating for 40 minutes. Ether was added to the reaction mixture, and the organic layer was successively washed with water, saturated aqueous sodium hydrogencarbonate solution, water and finally saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 10.0 mmol, 621 mg | C(CO)O | C2H6O2
reactant | benzhydrol | 4.0 mmol, 737 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | ethylene glycol | 10.0 mmol, 621 mg | C(CO)O | C2H6O2
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | Ether | CCOCC | C4H10O
product | 2-benzhydryloxyethanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCO | C15H16O2
